US07968720B2
(R)-1-(5-Bromo-pyridin-2-yl)-pyrrolidin-3-ol (G3)
A mixture of 2,5-dibromopyridine (10.0 g, 42.2 mmol) and (R)-hydroxypyrrolidine (11.0 g, 126 mmol) in toluene (50 mL) was heated to reflux overnight. The mixture was allowed to cool to rt, and the solvents were removed under reduced pressure. The residue was dissolved with EtOAc (150 mL), and the mixture was washed with aq. 10% K2CO3. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (heptane→heptane/EtOAc 1:2) yielded the title compound (8.63 g, 84%). LC-MS: tR=0.48 min; ES+: 243.15.

reactant | 2,5-dibromopyridine | 42.2 mmol, 10.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | (R)-hydroxypyrrolidine | 126 mmol, 11.0 g | C1CNC[C@@H]1O | C4H9NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-1-(5-Bromo-pyridin-2-yl)-pyrrolidin-3-ol | 8.63 g, 84% | BrC=1C=CC(=NC1)N1C[C@@H](CC1)O | C9H11BrN2O
